US08729102B2
D) tert-butyl {(1S)-2-[4-(6-ethoxypyrazolo[1,5-a]pyridin-2-yl)phenoxy]-1-methylethyl}carbamate
To a solution of tert-butyl [(1S)-2-{4-[(5-ethoxypyridin-2-yl)ethynyl]phenoxy}-1-methylethyl]carbamate (2.25 g) in THF (30 mL) was added 2-[(aminooxy)sulfonyl]-1,3,5-trimethylbenzene (1.75 g, containing water) at room temperature, and the mixture was stirred for 1 hr, and concentrated under reduced pressure. To the residue were added DMF (20 mL) and potassium carbonate (1.18 g), and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated under reduced pressure, and the residue was diluted with ethyl acetate and water, and the aqueous layer was separated from the organic layer. The separated aqueous layer was extracted again with ethyl acetate. The combined organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound as colorless crystals (1.18 g).

reactant | tert-butyl [(1S)-2-{4-[(5-ethoxypyridin-2-yl)ethynyl]phenoxy}-1-methylethyl]carbamate | 2.25 g | C(C)OC=1C=CC(=NC1)C#CC1=CC=C(OC[C@H](C)NC(OC(C)(C)C)=O)C=C1 | C23H28N2O4
reactant | 2-[(aminooxy)sulfonyl]-1,3,5-trimethylbenzene | 1.75 g | NOS(=O)(=O)C1=C(C=C(C=C1C)C)C | C9H13NO3S
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | tert-butyl {(1S)-2-[4-(6-ethoxypyrazolo[1,5-a]pyridin-2-yl)phenoxy]-1-methylethyl}carbamate | 1.18 g | C(C)OC=1C=CC=2N(C1)N=C(C2)C2=CC=C(OC[C@H](C)NC(OC(C)(C)C)=O)C=C2 | C23H29N3O4
